* Can CST shrink from 1.0 pF to 0.87 pF?
* CST is the startup KICK for the PTAT loop -- it injects charge during the
* rail ramp to push the dVBE loop out of its zero-current state.  It has no
* static role (ptat_bias.inc: "charge only during ramp; no static error"),
* so the question is purely whether the kick still lands.
* 0.87 pF is what fits the met4-free pocket over the resistor grid, which
* would let the cap stack instead of adding 22.4 um to the block width.
.lib /Users/cteusche/.ciel/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include ptatcore.inc
.param cval=1p
.subckt core_p vdd VSUB pbias nd12 nd055 vcasc cval=1p
XMPP1 nb  pbias vdd vdd sky130_fd_pr__pfet_g5v0d10v5 W=16 L=8
XMPP2 pbias pbias vdd vdd sky130_fd_pr__pfet_g5v0d10v5 W=16 L=8
XQP1 nb nb VSUB VSUB sky130_fd_pr__npn_05v5_W1p00L1p00
XQP2 pbias nb ne2 VSUB sky130_fd_pr__npn_05v5_W1p00L2p00
RPTAT ne2 VSUB 30k
XSL1 nsl1 nsl1 pbias vdd sky130_fd_pr__pfet_g5v0d10v5 W=4 L=8
XSL2 nsl2 nsl2 nsl1 vdd sky130_fd_pr__pfet_g5v0d10v5 W=4 L=8
XSL3 nsl3 nsl3 nsl2 vdd sky130_fd_pr__pfet_g5v0d10v5 W=4 L=8
XSL4 nd12 nd12 nsl3 vdd sky130_fd_pr__pfet_g5v0d10v5 W=4 L=8
RD1 vdd nd12 210k
RD2A nd12 vcasc 35k
RD2B vcasc nd055 30k
RD3 nd055 VSUB 55k
CST vdd nb 'cval'
.ends
VDD vdd 0 PWL(0 0 200u 3.3 2m 3.3)
VSS VSUB 0 0
XC vdd VSUB pbias nd12 nd055 vcasc core_p cval='cval'
.control
set filetype=ascii
foreach cc 1p 0.87p 0.5p
  alterparam cval = $cc
  reset
  tran 1u 1.2m
  * pbias well below vdd means the loop started; stuck = pbias ~ vdd
  meas tran vfin FIND v(pbias) AT=1.1m
  echo $cc $&vfin >> cst_start.txt
end
echo CST_DONE
.endc
.end
